US05405826
Preparation of 8-(3-trifluoromethylphenyl)-6-(4-trifluoromethylphenyl)pyrido[2,3-d]pyridazin-5-one
A suspension of 2-(3-trifluoromethylbenzoyl)nicotinic acid (1.5 g) and 4-trifluoromethylphenylhydrazine (1.34 g) in toluene was stirred at reflux temperature for 3 hours (water was removed azeotropically from the mixture).

reactant | 2-(3-trifluoromethylbenzoyl)nicotinic acid | 1.5 g | FC(C=1C=C(C(=O)C2=C(C(=O)O)C=CC=N2)C=CC1)(F)F | C14H8F3NO3
reactant | 4-trifluoromethylphenylhydrazine | 1.34 g | FC(C1=CC=C(C=C1)NN)(F)F | C7H7F3N2
reactant | water | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 8-(3-trifluoromethylphenyl)-6-(4-trifluoromethylphenyl)pyrido[2,3-d]pyridazin-5-one | FC(C=1C=C(C=CC1)C1=NN(C(C2=C1N=CC=C2)=O)C2=CC=C(C=C2)C(F)(F)F)(F)F | C21H11F6N3O
